datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[C:31](=[O:32])[H:33]>>[C-:31]#[O+:32].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:13])[H:33])([H:10])([H:11])[H:12],0.0
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([C:4]([H:11])([H:12])[H:13])([H:7])[H:10])([H:5])[H:6],223.007
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:18])([H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21],6.6944
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([C:7](=[S:8])[H:12])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[S:3])[H:11])[H:4].[C:5](=[C:6][C:7](=[S:8])[H:12])([H:9])[H:10],94.14
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8][H:12])[H:16])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11],77.404
[O:0][C:1]([O:2][O:3][H:6])([H:4])[H:5]>>[O:0]([C:1]([O:2][O:3])([H:4])[H:5])[H:6],35.9824
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]1([H:15])([H:16])[C:9]([H:17])([H:18])[C:10]2([H:19])[C:11]([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]1([H:24])[C:14]2([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:19])[H:5].[C:8]1([H:15])([H:16])[C:9]([H:17])([H:18])[C:10]2[C:11]([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]1([H:24])[C:14]2([H:25])[H:26],79.496
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[S:9]([C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])[H:18])[H:17]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([S:9][H:17])([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])[H:18],116.775
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([C:21]([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:21]([C:20]([H:28])([H:29])[H:30])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])[H:10])([H:8])[H:9],44.978
[C:0](=[C:1]([C:2](=[O:3])[H:6])[H:5])[H:4]>>[C:0](=[C:1]([C:2]=[O:3])[H:5])([H:4])[H:6],134.3064
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[C:3]1([H:14])[C:4]([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]1[H:19])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])[H:10].[H:14],104.74644
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([S:7][H:11])[H:10])([H:8])[H:9]>>[C:0](#[C:1][C:2](=[S:3])[H:10])[H:4].[C:5](=[C:6][S:7][H:11])([H:8])[H:9],82.8432
[C:0](=[O:1])([H:2])[H:3].[O:4][O:5][C:6](=[O:7])[H:8]>>[C:0](=[O:1])[H:3].[H:2][O:4][O:5][C:6](=[O:7])[H:8],48.78544
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([C:7](=[C:8]([C:9]([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])[H:22])[H:21])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([H:19])([H:20])[C:7]([H:21])=[C:8]([H:22])[C:9]1([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])[H:12],137.905
[O:0][C:1]([O:2][O:3][H:6])([H:4])[H:5]>>[O:0]=[C:1]([H:4])[H:5].[O:2][O:3][H:6],43.76464
[C:5]([H:6])([H:7])[H:8].[S:0]([S:1][S:2][H:4])[H:3]>>[S:0]([H:3])[C:5]([H:6])([H:7])[H:8].[S:1][S:2][H:4],7.1128
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[O:4][O:5][H:12])([H:6])[H:7]>>[C:0](=[C:1]1[C:2]([C:3]([H:9])([H:10])[H:11])([H:8])[O:4]1)([H:6])[H:7].[O:5][H:12],45.6433
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](#[C:11][C:12]([C:13]([H:16])([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])[H:15]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]#[C:10][H:15])([C:13]([H:16])([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])[H:6],33.8486
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:22])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])[H:23])([H:19])([H:20])[H:21],74.0568
